US06864265B2
Benzimidazole (590 mg, 5.0 mmol) and 3-bromo-1,2-propanediol (0.52 mL, 6.0 mmol) were dissolved in anhydrous acetonitrile (50 mL) and dry potassium carbonate (2.07 g, 15 mmol) was added. The solution was then heated to reflux for 3 days. Upon cooling the mixture was filtered and the filtrates were concentrated, giving the desired N-benzimidazolyl-1,2-propanediol (0.66 g, 69%) as a pale yellow solid. 1H NMR (CDCl3) δ3.60 (m, 2H), 3.78 (m, 2H), 4.17 (m, 1H), 4.27 (m, 2H), 7.25 (m, 2H), 7.42 (d, 1H, J=6 Hz), 7.67 (d, 1H, J=6 Hz), 7.87 (s, 1H).

reactant | Benzimidazole | 5.0 mmol, 590 mg | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | 3-bromo-1,2-propanediol | 6.0 mmol, 0.52 mL | BrCC(CO)O | C3H7BrO2
reactant | potassium carbonate | 15 mmol, 2.07 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | N-benzimidazolyl-1,2-propanediol | 0.66 g, 69% | N1(C=NC2=C1C=CC=C2)C(C(C)O)O | C10H12N2O2
